US04048423
Preparation of 2-t-Butylazo-2-chloropropane
Following this procedure, the following α-chloroazos were likewise prepared ("t-BH" is t-butylhydrazone and "t-CH" is t-cumylhydrazone): 2-t-butylazo-2-chlorooctane (in 45.8% crude yield from 2-octanone t-BH), n-butyl 4-t-butylazo-4-chlorovalerate (in 61% crude yield from n-butyl levulinate t-BH), 2-t-cumylazo-2-chloropropane (in 49% crude yield from acetone t-CH prepared by refluxing acetone and an aqueous solution of t-cumylhydrazine, the hydrazine being prepared according to the method of C. G. Overberger et al., J. Am. Chem. Soc. 80, 6562 (1958)), 2-t-cumylazo-2-chloro-4-methylpentane (in 50% crude yield from methyl isobutyl ketone t-CH prepared from methyl isobutyl ketone and t-cumylhydrazine), and ethyl 3-t-butylazo-3-chlorobutirate (in 33.6% crude yield from ethyl acetoacetate t-BH prepared from t-butylhydrazine and ethyl acetoacetate).

reactant | 2-t-butylazo-2-chlorooctane | C(C)(C)(C)N=NC(C)(CCCCCC)Cl | C12H25ClN2
reactant | n-butyl 4-t-butylazo-4-chlorovalerate | C(C)(C)(C)N=NC(CCC(=O)OCCCC)(C)Cl | C13H25ClN2O2
reactant | hydrazine | NN | H4N2
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | t-butylhydrazine | C(C)(C)(C)NN | C4H12N2
solvent | acetone | CC(=O)C | C3H6O
product | 2-t-Butylazo-2-chloropropane | C(C)(C)(C)N=NC(C)(C)Cl | C7H15ClN2
